US04824958
4,5-Dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylic acid.
Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylate (3.0 g, 0.007 moles) is dissolved in methanol (40 mL), 2N NaOH (20 mL) is added and the mixture stirred and heated to reflux under nitrogen. After 2 hours the mixture is cooled, then stripped of methanol under reduced pressure. The residue is acidified with oxalic acid and the precipitate is filtered off, rinsed well with warm water, and dried to afford the pure product (2.6 g); mp 76° C. (dec).

reactant | Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylate | 0.007 moles, 3.0 g | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)OCC)OC(C)C | C16H17Br2NO3
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 40 mL | CO | CH4O
product | 4,5-Dibromo-3-(1-methylethoxy)-1-phenyl-1H-pyrrole-2-carboxylic acid | 2.6 g | BrC=1C(=C(N(C1Br)C1=CC=CC=C1)C(=O)O)OC(C)C | C14H13Br2NO3
